US06239131B1
Preparation of 1-cyclohexylcarbonylmethyl-2-oxo-3-amino-5-cyclohexyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine
4N HCl-dioxane (10 ml) was added to a solution of 1-cyclohexylcarbonylmethyl-2-oxo-3-tert-butoxycarbonylamino-5-cyclohexyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine (500 mg) in ethanol (10 ml), and the mixture was stirred at 50° C. for one hour. The reaction mixture was concentrated under reduced pressure, the residue was neutralized with saturated aqueous sodium bicarbonate, extracted with methylene chloride. The organic layer was dried over anhydrous sodium sulfate, the solvent was evaporated under reduced pressure, to thereby obtain 400 mg of the title compound.

reactant | HCl dioxane | 4N, 10 ml | Cl.O1CCOCC1
reactant | 1-cyclohexylcarbonylmethyl-2-oxo-3-tert-butoxycarbonylamino-5-cyclohexyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine | 500 mg | C1(CCCCC1)C(=O)CN1C(C(CN(C2=C1C=CC=C2)C2CCCCC2)NC(=O)OC(C)(C)C)=O | C28H41N3O4
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 1-cyclohexylcarbonylmethyl-2-oxo-3-amino-5-cyclohexyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine | 400 mg | C1(CCCCC1)C(=O)CN1C(C(CN(C2=C1C=CC=C2)C2CCCCC2)N)=O | C23H33N3O2
